US06340759B1
Synthesis of 4-chloro-1-(4-ethylpiperazin-1-yl)-3-(4-methoxyphenyl)isoquinoline dihydrochloride
To the resulting 1,4-dichloro-3-(4-methoxyphenyl)isoquinoline (0.30 g) were added potassium carbonate (0.14 g), N-ethylpiperazine (126 ml) and N,N-dimethylformamide (10 ml). The resulting mixture was stirred at room temperature overnight. To the mixture was then added N-ethylpiperazine (126 ml), and the mixture was stirred at room temperature for 4 hr. Still additionally, N-ethylpiperazine (378 ml) was added thereto, and the mixture was stirred at 50° C. for 1.5 hr. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed sequentially with water (four times) and brine, and dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/acetone system), to give 0.10 g of the free compound of the title compound as a colorless viscous oil.

reactant | 1,4-dichloro-3-(4-methoxyphenyl)isoquinoline | 0.30 g | ClC1=NC(=C(C2=CC=CC=C12)Cl)C1=CC=C(C=C1)OC | C16H11Cl2NO
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethylpiperazine | 126 ml | C(C)N1CCNCC1 | C6H14N2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N-ethylpiperazine | 126 ml | C(C)N1CCNCC1 | C6H14N2
reactant | N-ethylpiperazine | 378 ml | C(C)N1CCNCC1 | C6H14N2
solvent | water | O | H2O
product | 4-chloro-1-(4-ethylpiperazin-1-yl)-3-(4-methoxyphenyl)isoquinoline dihydrochloride | 0.10 g | Cl.Cl.ClC1=C(N=C(C2=CC=CC=C12)N1CCN(CC1)CC)C1=CC=C(C=C1)OC | InChI=1S/C22H24ClN3O.2ClH/c1-3-25-12-14-26(15-13-25)22-19-7-5-4-6-18(19)20(23)21(24-22)16-8-10-17(27-2)11-9-16;;/h4-11H,3,12-15H2,1-2H3;2*1H
